US09328112B2
methyl 2-(4-oxocyclohexylidene)propanoate
A mixture of methyl 2-(triphenylphosphoranylidene)propanoate (2.5 g, 7.18 mmol) and cyclohexane-1,4-dione (1.609 g, 14.35 mmol) in toluene (25 mL) was stirred at 100° C. overnight and then concentrated in vacuo. The residue was triturated with a mixture of hexanes (100 mL) and ethyl acetate (100 mL), and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography on Analogix IntelliFlash280 eluting with 0 to 50% ethyl acetate/hexanes to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ 1.85 (p, J=1.5 Hz, 3H), 2.27-2.35 (m, 2H), 2.41 (dd, J=8.0, 5.8 Hz, 2H), 2.55-2.65 (m, 2H), 2.81-2.90 (m, 2H), 3.66 (s, 3H).

reactant | methyl 2-(triphenylphosphoranylidene)propanoate | 7.18 mmol, 2.5 g | C1(=CC=CC=C1)P(=C(C(=O)OC)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | cyclohexane-1,4-dione | 14.35 mmol, 1.609 g | C1(CCC(CC1)=O)=O | C6H8O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(4-oxocyclohexylidene)propanoate | O=C1CCC(CC1)=C(C(=O)OC)C | C10H14O3
